US04431589
6,7-Dichloro-2-methyl-10-[4-methyl-1-piperazinyl]-2,4-dihydro-1,2,3-triazolo[4,5-b][1,5]benzodiazepine.
10-Amino-6,7-dichloro-2-methyl-2,4-dihydro-1,2,3-triazolo[4,5-b][1,5]benzodiazepine hydrochloride (0.84 g) was added to a mixture of dry dimethylsulphoxide (5 ml), toluene (5 m) and N-methylpiperazine (1 ml), which had been purged with nitrogen for 20 minutes. The stirred solution was then heated at 125° C. (oil bath) under nitrogen for 16 hours, cooled to room temperature, and distilled water (10 ml) added, keeping the temperature below 25° C. After stirring at 5° C. for half an hour, the suspension obtained was filtered off and dried at 70° C. under reduced pressure to leave a yellow-brown solid which was recrystallised from ethyl acetate/n-hexane to give a yellow crystalline solid, melting point 217.5°-218.5° C.

reactant | 10-Amino-6,7-dichloro-2-methyl-2,4-dihydro-1,2,3-triazolo[4,5-b][1,5]benzodiazepine hydrochloride | 0.84 g | Cl.NC=1C=2C(NC3=C(N1)C=C(C(=C3)Cl)Cl)=NN(N2)C
reactant | dimethylsulphoxide | 5 ml | CS(=O)C | C2H6OS
reactant | N-methylpiperazine | 1 ml | CN1CCNCC1 | C5H12N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6,7-Dichloro-2-methyl-10-[4-methyl-1-piperazinyl]-2,4-dihydro-1,2,3-triazolo[4,5-b][1,5]benzodiazepine | ClC1=CC2=C(N=C(C=3C(N2)=NN(N3)C)N3CCN(CC3)C)C=C1Cl | C15H17Cl2N7
